* D:\Users\C1\Documents\C1_Repos\Technion_Project_A\LTSPICE\Simulations\Flyback_Converter_with_GaN,EPC2302, with IR4427 Gate Driver, snubber on P and S.asc
L1 VL1 Vs 1µ
L2 0 VL2 0.2µ
V1 VL1 0 {Vin}
D1 VL2 Vout MBR0530L
Cout Vout 0 50µ
R1 Vout 0 5
XU1 Vg Vs 0 EPC2302
Cin VL1 0 15µ
V2 N002 0 12
V3 N003 0 PULSE(0 6 0 10n 10n {D/fs} {1/fs})
XU3 N001 NC_01 0 N003 NC_02 N002 IR4427
R2 Vg N001 4
C1 Vs P001 15n
R3 P001 0 25
R4 VL2 P002 5
C2 P002 Vout 25n
.model D D
.lib C:\Users\C1\AppData\Local\LTspice\lib\cmp\standard.dio
K L1 L2 0.95
.param Vin = 12
.tran 140u startup
.param fs=1000k
.param D=0.45
* KTF500B156M55NHT00
* EFD10/5/3-3F46-S
* WW3FT5R00
* A768EB476M1VLAE042
.lib D:\Users\C1\Documents\C1_Repos\Technion_Project_A\LTSPICE\Components\Libraries\IR4427.lib
.lib EPCGanlibrary.lib
.backanno
.end
